US07601844B2
Step 2. Ethyl 4-acetamido-4-(4-chlorophenyl)-3,3-dimethylpiperidine-1-carboxylate
A suspension of (R)-ethyl 4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carboxylate (322 mg, 1.033 mmol) in acetonitrile (3 mL) was treated with sulfuric acid (0.275 mL, 5.16 mmol), and the resulting clear solution was stirred overnight at room temperature. The reaction was quenched with saturated sodium carbonate, and then extracted 3× with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate, and concentrated in-vacuo. The residue was purified over silica gel, eluting with ethyl acetate/hexanes (10%-25%-100% EtOAc) to yield the title compound (245 mg, 0.694 mmol, 67.2% yield) as a colorless foam.

reactant | (R)-ethyl 4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carboxylate | 1.033 mmol, 322 mg | ClC1=CC=C(C=C1)[C@]1(C(CN(CC1)C(=O)OCC)(C)C)O | C16H22ClNO3
reactant | sulfuric acid | 5.16 mmol, 0.275 mL | S(O)(O)(=O)=O | H2O4S
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
product | Ethyl 4-acetamido-4-(4-chlorophenyl)-3,3-dimethylpiperidine-1-carboxylate | 0.694 mmol, 245 mg, 67.2% yield | C(C)(=O)NC1(C(CN(CC1)C(=O)OCC)(C)C)C1=CC=C(C=C1)Cl | C18H25ClN2O3
